US06706725B1
i) (E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-3-ethyloct-6-en-3-ol
350 mg (0.76 mmol) of dimethyl 4-[5-((E)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)-2-thienylmethoxy]phthalate are dissolved in 20 mL of anhydrous ethyl ether. 70 mg (1.8 mmol) of lithium aluminium hydride are added and the reaction medium is stirred at room temperature for 30 minutes. 400 mL of water are then added slowly and the medium is filtered. The filtrate is concentrated under reduced pressure and the residue obtained is then purified by chromatography on a column of silica (eluent: 70 ethyl acetate/30 heptane). A white solid (m.p.: 100-102° C.) is obtained (m=175 mg; Y=58%).

reactant | dimethyl 4-[5-((E)-5-ethyl-5-hydroxy-1-methylhept-1-enyl)-2-thienylmethoxy]phthalate | 0.76 mmol, 350 mg | C(C)C(CC/C=C(\C)/C1=CC=C(S1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)(CC)O | C25H32O6S
reactant | lithium aluminium hydride | 1.8 mmol, 70 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 400 mL | O | H2O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | (E)-7-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-3-ethyloct-6-en-3-ol | OCC=1C=C(OCC2=CC=C(S2)/C(=C/CCC(CC)(O)CC)/C)C=CC1CO | C23H32O4S
